US07902401B2
To a solution of 2-(dibenzylamino)-3-(difluoromethoxy)propanoic acid (335.4 mg, 1 mmol) and triethylamine (404.8 mg, 4 mmol) in THF (5 mL) at −5° C., isobutyl chloroformate (143.5 mg, 1.05 mmol) was added dropwise. After 20 minutes, 4-fluorobenzylamine (137.5 mg, 1.1 mmol) was added and the reaction mixture allowed to warm up to room temperature. The mixture then was diluted with ethyl acetate and washed with water, 0.5 N HCl and Brine. The organic layer was dried over magnesium sulphate, concentrated with silica gel and purified by column chromatography, eluting with 10˜20% ethyl acetate in hexanes, to give 2-dibenzylamino-3-difluoromethoxy-N-(4-fluorobenzyl)propionamide (395 mg, 89.2%) as a colorless oil. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.56 (t, 1H), 6.98-7.32 (m, 14H), 6.35 (wt, 1H), 4.61 (dd, 1H), 4.41 (m, 3H), 3.86 (d, 2H), 3.70 (d, 2H) and 3.68 (m, 1H).

reactant | 2-(dibenzylamino)-3-(difluoromethoxy)propanoic acid | 1 mmol, 335.4 mg | C(C1=CC=CC=C1)N(C(C(=O)O)COC(F)F)CC1=CC=CC=C1 | C18H19F2NO3
reactant | triethylamine | 4 mmol, 404.8 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.05 mmol, 143.5 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-fluorobenzylamine | 1.1 mmol, 137.5 mg | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-dibenzylamino-3-difluoromethoxy-N-(4-fluorobenzyl)propionamide | 395 mg, 89.2% | C(C1=CC=CC=C1)N(C(C(=O)NCC1=CC=C(C=C1)F)COC(F)F)CC1=CC=CC=C1 | C25H25F3N2O2
